US08293746B2
Step 7.4: 2-Chloro-3,5-dimethoxy-6-methyl-phenyl-amine
HCl (91 mL, 360 mmol, 8 equiv, 4N in dioxane) is added dropwise to a cooled (10° C.) solution of (2-chloro-3,5-dimethoxy-6-methyl-phenyl)-carbamic acid tert-butyl ester (13.8 g, 45.7 mmol) in dioxane (150 mL), under an argon atmosphere. The reaction mixture is allowed to warm to RT, stirred for 24 h and concentrated. The residue is diluted with EtOAc, washed with a saturated aqueous solution of NaHCO3, and brine, dried (Na2SO4), filtered and concentrated. The residue is purified by crystallization from DCM/Hex to afford the title compound. ESI-MS: 202.0 [MH]+, TLC: Rf=0.37 (DCM).

reactant | HCl | 360 mmol, 4N, 91 mL, 8 equiv | Cl | ClH
reactant | (2-chloro-3,5-dimethoxy-6-methyl-phenyl)-carbamic acid tert-butyl ester | 45.7 mmol, 13.8 g | C(C)(C)(C)OC(NC1=C(C(=CC(=C1C)OC)OC)Cl)=O | C14H20ClNO4
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-3,5-dimethoxy-6-methyl-phenyl-amine | ClC1=C(C(=C(C=C1OC)OC)C)N | C9H12ClNO2
